US06268387B1
3-(2-Methoxy-phenylamino)-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-N-phenyl-benzamide (0.85 g, 4.0 mmol), tris(2-methoxyphenyl)bismuthine (2.2 g, 4.1 mmol), copper(II) acetate (0.75 g, 4.1 mmol), and triethylamine (0.42 g, 4.1 mmol) to give a solid residue which was subjected to chromatography on a column of silica gel in chloroform to afford the product (0.9 g); m.p. 153-154° C. after recrystallization from ethanol.

reactant | 3-amino-N-phenyl-benzamide | 4.0 mmol, 0.85 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
reactant | tris(2-methoxyphenyl)bismuthine | 4.1 mmol, 2.2 g | COC1=C(C=CC=C1)[Bi](C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC
reactant | triethylamine | 4.1 mmol, 0.42 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | copper(II) acetate | 4.1 mmol, 0.75 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(2-Methoxy-phenylamino)-N-phenyl-benzamide | 0.9 g | COC1=C(C=CC=C1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C20H18N2O2
